Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
Polytrauma
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old man who was involved in an MVC. He was the 
restrained driver, rear-ended, GCS 15, with C-spine & L-spine 
tendernesMr. ___ is a ___ restrained driver who was
rear-ended outside of his house this morning by a pick-up truck.
No airbag deployment; his car was destroyed. There was head
strike but patient unsure if he lost consciousness. Following 
the
accident, patient was able to walk back into his home. He went 
to
the ___ for evaluation at his father's insistence. 
There,
CT head, C-spine, and T-spine were negative for traumatic 
injury.
However, patient endorsed ongoing neck pain and thus transferred
to ___ for further evaluation.

On arrival, patient recalls events of the accident as above. He
complains of headache and pain at the back of his neck and top 
of
his back. He denies any other symptoms. He endorses chronic 
lower
extremity pain in his distal leg and feet from diabetic
neuropathy. However denies numbness and tingling and 
incontinece.
s
 
Past Medical History:
PAST MEDICAL HISTORY: DMII, diabetic peripheral neuropathy,
bilateral carpal tunnel syndrome

PAST SURGICAL HISTORY: Left knee surgeries, left axillary lymph
node excision

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS - 98.2, 108, 152/94, 18, 98% RA
GCS 15
General: Uncomfortable but NAD.
HEENT: NCAT. PERRL & EOMI. No hemotypanum, nares clear, oral
cavity clear with intact dentition. No facial tenderness. Dry
mucous membranes. Abrasion at right lower forehead.
Neck: trachea midline. C collar on. C-spine tenderness.
CV: RRR, no murmurs. Palpable bilateral radial, ___ pulses.   
CHEST: non-labored effort. CTAB. No clavicular, sternal, or 
chest
wall tenderness. Absent crepitus   
ABDOMEN: obese, soft, non-tender, non-distended 
BACK: No step offs. Point tenderness at lumbar spine. 
MSK: Full ROM at b/l UE and ___ joints. No deformities.
EXT: warm, well-perfused, no edema.
NEURO: A&Ox3. Speech clear & coherent.
 
Pertinent Results:
IMAGING

CT A/P (___)

1. No acute sequelae of trauma.  No acute intra-abdominal or 
intrapelvic
process.
2. Rectosigmoid diverticulosis.
3. Probable mild hepatic steatosis.
 
MRI C-SPINE (___)

1. No evidence of ligamentous or cord injury.
2. Mild anterior subluxation of C3 upon C4.
3. Mild degenerative changes involving the cervical spine 
without spinal cord
or neural foraminal compromise.  
 
Brief Hospital Course:
Mr. ___ was transferred to ___ after involvement in a car 
accident with complaints of persistent c-spine tenderness. He 
had an MRI performed of his cervical spine which did not show 
any abnormality. He also underwent a CT scan of his abdomen and 
pelvis which did not show any sequelae of trauma. Due to high 
blood sugars, the ___ Diabetes team was consulted. They made 
recommendations to change his insulin regimen which were 
implemented. These included stopping his metformin due to an 
elevate creatinine. He was tolerating a regular diet, 
ambulating, voiding and his pain was controlled with oral pain 
medications. He was discharged home with followup instructions 
with his PCP for diabetes management and to monitor his 
creatinine to ensure that it continued to trend downward. 
 
Medications on Admission:
atorvastatin 20', gabapentin 600''', metoprolol
25'', lisinopril 40', glimiperide, metformin 500'''',
nortriptyline 25'
 
Discharge Medications:
1. Gabapentin 600 mg PO TID 
2. Glargine 36 Units Breakfast
Humalog 8 Units Breakfast
Humalog 8 Units Lunch
Humalog 8 Units Dinner
RX *insulin glargine [Lantus] 100 unit/mL 36 units sc 36 Units 
before BKFT; Disp #*1 Vial Refills:*0
RX *insulin lispro [Humalog] 100 unit/mL 8 units sc 8 Units 
before BKFT; 8 Units before LNCH; 8 Units before DINR; Disp #*1 
Vial Refills:*0
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Nortriptyline 25 mg PO QHS 
6. Atorvastatin 40 mg PO QPM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
motor vehicle collision
neck pain
hyperglycemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were transferred to ___ after a motor vehicle collision 
complaining of neck and back pain. Your neck MRI was negative 
for any ligamentous or spinal cord injury or fracture. Your 
abdominal and pelvic CT scan did not show any traumatic injury. 
Your neck pain is improving and is likely musculoskeletal in 
nature. While you were here your blood sugars were noted to be 
elevated so the ___ diabetes doctors were ___. They 
recommend you start insulin with the following regimen:

Lantus 36 units every morning
Humalog 8 units prior to breakfast, lunch, and dinner
Stop taking Metformin due to elevated creatinine (kidney test)

We are setting you up with a Visiting Nurse to help manage your 
insulin administration and blood glucose at home. Please follow 
up with your Endocrinologist. If you do not have an 
endocrinologist, you can set up an appointment with the ___ 
___ at ___ at ___  

You are medically clear for discharge home to continue your 
recovery. Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids
 
Followup Instructions:
___